### PR TITLE
feat: prove that omega-regular languages are closed under finite intersection

### PR DESCRIPTION
**Pull request by ctchou**
Proving that omega-regular languages are closed under finite intersection is harder than doing so for regular languages and requires the following ingredients:
- NAProd.lean: product construction for NA.
- NAHist.lean: adding history state to NA.
- NABuchiInter: the intersection construction that uses both NAProd and NAHist constructions.
- Temporal.lean: temporal reasoning over infinite sequences that is needed to show that NABuchiInter actually works.

I also renamed {Sum,Prod}.lean to {NASum,DAProd}.lean to keep the file naming scheme consistent.

### CODE REVIEW

**Comment by chenson2018** [comment]
Before I review, I've been meaning to ask about the naming scheme. As you add more files, I think it would be easier to navigate if we organized into subdirectories. What do you think about something like the structure below?
```
├── Automata
    ├── Acceptor.lean
    ├── DA
    │   ├── Basic.lean
    │   ├── Buchi.lean
    │   ├── Prod.lean
    │   └── ToNA.lean
    ├── NA
    │   ├── Basic.lean
    │   ├── Buchi
    │   │   ├── Equiv.lean
    │   │   └── Inter.lean
    │   ├── Epsilon
    │   │   ├── Basic.lean
    │   │   └── ToNA.lean
    │   ├── Hist.lean
    │   ├── Prod.lean
    │   ├── Sum.lean
    │   └── ToDA.lean
    └── OmegaAcceptor.lean
```
The details of exactly what directories can be changed as you see fit, I just think in general it could be nicer than the flat structure.

**Comment by ctchou** [comment]
Actually I like a flat directory better.  I really hate the hassle of having to climb up and down in a directory tree when I need to open a file.  I'm also not sure a tree structure is any more "rational" than the current naming scheme, which already groups the files in a natural way by the alphabetical order.  For example, NABuchiIInter.lean contains a construction that is a composition of the constructions in NAProd.lean and NAHist.lean.  There seems to me no good reason why the first file should be placed in a subdirectory while the latter two are not.  Also note that if you pursue your logic to its conclusion, you probably should split NA.lean into NA/Basic.lean, NA/FinAcc/Basic.lean, NA/Buchi/Basic.lean, and NA/Muller/Basic.lean.  I'm really not sure what that would buy you.

I think we will end up with around 20 files in this directory, which I don't think is excessive.

**Comment by chenson2018** [comment]
This is not critical at the moment, we can always revisit later. I don't want to introduce too much churn while you are still actively developing the library. Let's table this and I'll just review the PR.

Just to write it down for future reference however, the benefits I see and response to your concerns:
- subdirectories make easier to read names, especially with capitalization e.g. `NAHist.lean` versus `NA/Hist.lean`
- subdirectories make it easier to see which files are related to each other. 20 files is not inherently excessive, but it is harder at a glance to see what the overarching areas there are versus just a few things at the top level
- I find your closing argument a bit of a strawman, nothing requires the directory structure to be overly granular
- I don't understand the "hassle of having to climb up and down in a directory tree" argument, as you are still free to work from the top level directory

File: Cslib/Computability/Automata/NAHist.lean [hunk 1]
```diff
@@ -0,0 +1,58 @@
...
+
+variable {na : NA State Symbol} {start' : State → Hist}
+  {tr' : State × Hist → Symbol → State → Hist}
+
+/-- Every run of the history automaton projects onto a run of the original automaton. -/
+theorem hist_run_proj {xs : ωSequence Symbol} {ss : ωSequence (State × Hist)}
+    (h_run : (na.addHist start' tr').Run xs ss) : na.Run xs (ss.map fst) := by
+  obtain ⟨h_start, h_trans⟩ := h_run
+  simp only [addHist] at h_trans
+  grind
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NAHist.lean:39]: Needing to `simp [addHist]` here is a bit strange because the `grind` below also uses `addHist`. Maybe some lemma needed for `grind`?

(Side note, this is successfully using the `Run.mk` lemma, so I think that is proving a useful `grind` annotation.)

File: Cslib/Computability/Automata/NAHist.lean [hunk 2]
```diff
@@ -0,0 +1,58 @@
...
+  | 0 => start' (ss 0)
+  | n + 1 => tr' (ss n, makeHist start' tr' xs ss n) (xs n) (ss (n + 1))
+
+/-- For every run `ss` of the original automaton, there exists a run `ss'` of the history automaton
+which projects back onto `ss`. -/
+theorem hist_run_exists {xs : ωSequence Symbol} {ss : ωSequence State}
+    (h_run : na.Run xs ss) : ∃ ss', (na.addHist start' tr').Run xs ss' ∧ ss'.map fst = ss := by
+  use ⟨fun n ↦ (ss n, makeHist start' tr' xs ss n)⟩
+  constructor
+  · simp only [addHist]
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NAHist.lean:54]: Same thing here, we're missing some lemmas. Also for the second branch of the proof I think we should be able make `grind` pick up that `ext`, let me investigate.

File: Cslib/Computability/Automata/NAProd.lean [hunk 3]
```diff
@@ -0,0 +1,46 @@
...
+    · simp only [mem_iInter] at h_start
+      grind
+    · grind
+  · intro h
+    constructor
+    · simp only [mem_iInter]
+      grind
+    · intro n i
+      have := (h i).2 n
+      grind
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NAProd.lean]: Personal preference I think, but for readability I like using the descriptive names (`fst`/`snd`, `left`/`right`, etc.) versus the numeric projection.

Less subjectively, there is no need to invoke grind:
```suggestion
      exact (h i).right n
```

File: Cslib/Computability/Automata/NAProd.lean [hunk 4]
```diff
@@ -0,0 +1,46 @@
...
+    {xs : ωSequence Symbol} {ss : ωSequence (Π i, State i)} :
+    (iProd na).Run xs ss ↔ ∀ i, (na i).Run xs (ss.map (· i)) := by
+  rw [iProd]
+  constructor
+  · rintro ⟨h_start, h_trans⟩
+    intro i
+    constructor
+    · simp only [mem_iInter] at h_start
+      grind
+    · grind
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NAProd.lean]:
```suggestion
  · rintro ⟨h_start, h_trans⟩
    simp only [mem_iInter] at h_start
    grind
```

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 5]
```diff
@@ -81,6 +82,20 @@ theorem IsRegular.bot : (⊥ : ωLanguage Symbol).IsRegular := by
...
+  let na : NA.Buchi Unit Symbol := {
+    Tr _ _ _ := True
+    start := univ
+    accept := univ }
+  use Unit, inferInstance, na
+  ext xs
+  simp only [na, NA.Buchi.instωAcceptor, mem_language, mem_univ, frequently_true_iff_neBot,
+    atTop_neBot, and_true, mem_top, iff_true]
+  use const ()
+  constructor <;> grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: If you open the `NA.Run` scope, this can be just `grind`. If that scope being so far nested makes it less usable, we could move it up.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 6]
```diff
@@ -114,6 +149,20 @@ theorem IsRegular.iSup {I : Type*} [Finite I] {s : Set I} {p : I → ωLanguage
...
+@[simp]
+theorem IsRegular.iInf {I : Type*} [Finite I] {s : Set I} {p : I → ωLanguage Symbol}
+    (h : ∀ i ∈ s, (p i).IsRegular) : (⨅ i ∈ s, p i).IsRegular := by
+  generalize h_n : s.ncard = n
+  induction n generalizing s
+  case zero =>
+    have := ncard_eq_zero (s := s)
+    grind [IsRegular.top, iInf_top]
+  case succ n h_ind =>
+    obtain ⟨i, t, h_i, rfl, rfl⟩ := (ncard_eq_succ (s := s)).mp h_n
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: `s` can be inferred here:

```suggestion
    obtain ⟨i, t, h_i, rfl, rfl⟩ := (ncard_eq_succ).mp h_n
```

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean [hunk 7]
```diff
@@ -0,0 +1,103 @@
...
+/-- "`p` leads to `q`" means that whenever `p` holds at a position in `xs`, `q` holds at the same
+or a later position in `xs`. -/
+def LeadsTo (xs : ωSequence α) (p q : Set α) : Prop :=
+  ∀ k, xs k ∈ p → ∃ k' ≥ k, xs k' ∈ q
+
+variable {xs : ωSequence α}
+
+/-- `Step` implies `LeadsTo`. -/
+theorem step_leadsTo {p q : Set α}
+    (h : xs.Step p q) : xs.LeadsTo p q := by
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: This fits on one line

```suggestion
theorem step_leadsTo {p q : Set α} (h : xs.Step p q) : xs.LeadsTo p q := by
```

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean [hunk 8]
```diff
@@ -0,0 +1,103 @@
...
+  intro k h_p
+  obtain ⟨k', _, h_q⟩ := h1 k h_p
+  have := h2 k' h_q
+  grind
+
+/-- If `p ∩ q` leads to `r` and `p ∩ qᶜ` leads to `s`, then `p` leads to `r ∪ s`. -/
+theorem leadsTo_cases_or {p q r s : Set α}
+    (h1 : xs.LeadsTo (p ∩ q) r) (h2 : xs.LeadsTo (p ∩ qᶜ) s) : xs.LeadsTo p (r ∪ s) := by
+  intro k h_p
+  rcases Classical.em (xs k ∈ q) with h_q | h_not_q
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Temporal.lean]:
```suggestion
  by_cases xs k ∈ q
```

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean [hunk 9]
```diff
@@ -0,0 +1,103 @@
...
+  · have h_pq : xs k ∈ p ∩ q := by grind
+    have := h1 k h_pq
+    grind
+  · have h_pq : xs k ∈ p ∩ qᶜ := by grind
+    have := h2 k h_pq
+    grind
+
+private lemma ge_lemma {k k' : ℕ} (h : k' ≥ k) : ∃ n, k' = k + n :=
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: `≥` is an abbreviation for `≤`, so it is often easier to use and search for theorems using `≤`.

In this case, your lemma is exactly `Nat.exists_eq_add_of_le`, please use this instead.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean [hunk 10]
```diff
@@ -0,0 +1,103 @@
...
+  suffices ∀ k' ≥ k, xs k' ∈ p by
+    have := frequently_atTop.mp h2 k
+    grind
+  intro k' h_k'
+  obtain ⟨n, rfl⟩ := ge_lemma h_k'
+  induction n
+  case zero => grind
+  case succ n h_ind =>
+    have h_pq_n : xs (k + n) ∈ p ∩ qᶜ := by grind
+    exact h1 (k + n) h_pq_n
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Temporal.lean]:
```suggestion
  case succ n h_ind => exact h1 (k + n) (by grind)
```

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean [hunk 11]
```diff
@@ -0,0 +1,103 @@
...
+
+/-- `Step p q` means that whenever `p` holds at a position in `xs`, `q` holds at the next position
+in `xs`. -/
+def Step (xs : ωSequence α) (p q : Set α) : Prop :=
+  ∀ k, xs k ∈ p → xs (k + 1) ∈ q
+
+/-- "`p` leads to `q`" means that whenever `p` holds at a position in `xs`, `q` holds at the same
+or a later position in `xs`. -/
+def LeadsTo (xs : ωSequence α) (p q : Set α) : Prop :=
+  ∀ k, xs k ∈ p → ∃ k' ≥ k, xs k' ∈ q
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: Please use `≤` in this definition.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean [hunk 12]
```diff
@@ -0,0 +1,103 @@
+/-
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Temporal.lean:1]: Will you have some need later for indexed propositions as used in separation logic? Something like
```lean
class iProp (ϕ : ωSequence Prop) where
  downward_closed (k : ℕ) (hk : ϕ k) (j : ℕ) (j_le_k : j ≤ k) : ϕ j
```
seems like it fits in with what you're doing here.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean [hunk 13]
```diff
@@ -0,0 +1,103 @@
...
+variable {α : Type*}
+
+/-- `Step p q` means that whenever `p` holds at a position in `xs`, `q` holds at the next position
+in `xs`. -/
+def Step (xs : ωSequence α) (p q : Set α) : Prop :=
+  ∀ k, xs k ∈ p → xs (k + 1) ∈ q
+
+/-- "`p` leads to `q`" means that whenever `p` holds at a position in `xs`, `q` holds at the same
+or a later position in `xs`. -/
+def LeadsTo (xs : ωSequence α) (p q : Set α) : Prop :=
```
Comment (chenson2018) [inline Cslib/Foundations/Data/OmegaSequence/Temporal.lean:34]: I think making this a typeclass and defining a notation could be helpful.

File: Cslib/Computability/Automata/NABuchiInter.lean [hunk 14]
```diff
@@ -0,0 +1,146 @@
...
+variable {Symbol : Type*} {State : Bool → Type*}
+
+/-- The initial history state. -/
+@[scoped grind =, nolint unusedArguments]
+def histStart (_ : Π i, State i) : Bool := false
+
+/-- The two accepting conditions of the intersection automaton. -/
+@[scoped grind =]
+def interAcc (j : Bool) (acc : (i : Bool) → Set (State i)) : Set ((Π i, State i) × Bool) :=
+  { s | s.fst j ∈ acc j ∧ s.snd = j }
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NABuchiInter.lean]: You can use patterns on the lhs, like `{⟨foo, bar⟩ | ...}`. I would do this throughout this file for readability.

File: Cslib/Computability/Automata/NABuchiInter.lean [hunk 15]
```diff
@@ -0,0 +1,146 @@
...
+
+/-- The transition function of the history state. -/
+@[scoped grind =, nolint unusedArguments]
+noncomputable def histTrans (acc : (i : Bool) → Set (State i))
+    (s : (Π i, State i) × Bool) (_ : Symbol) (_ : Π i, State i) : Bool :=
+  open scoped Classical in
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NABuchiInter.lean]: I still get confused by `open scoped Classical`, but doesn't it usually go outside the definition?

File: Cslib/Computability/Automata/NABuchiInter.lean [hunk 16]
```diff
@@ -0,0 +1,146 @@
...
+/-- The overall accepting conditon of the intersection automaton. -/
+@[scoped grind =]
+def interAccept (acc : (i : Bool) → Set (State i)) : Set ((Π i, State i) × Bool) :=
+  interAcc false acc ∪ interAcc true acc
+
+variable {na : (i : Bool) → NA (State i) Symbol} {acc : (i : Bool) → Set (State i)}
+
+/-- If the intersection automaton sees one accepting condtion infinitely many times,
+then it sees the other accepting condition infinitely many times as well. -/
+lemma inter_lemma1 {xs : ωSequence Symbol} {ss : ωSequence ((Π i, State i) × Bool)} {i : Bool}
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NABuchiInter.lean]: A couple of things here. First, I would again use the descriptive names, and we even have one for `NA.Run`. At the beginning of the proof you can have
```lean
have run_trans (k) := (h_run.trans k).right
```
generalizing over k so you don't need to repeat the `have` twice.

Still this is a bit awkward, as each time you are doing `intro k` here, it is really just so `grind` can see through the definition of `Step`. Can you instead add a lemma that `grind` can use?

Comment (chenson2018) [inline Cslib/Computability/Automata/NABuchiInter.lean]: Please use a more descriptive name for these lemmas. We should almost never be adding declarations that have "lemma" or numbers in their name.

File: Cslib/Computability/Automata/NABuchiInter.lean [hunk 17]
```diff
@@ -0,0 +1,146 @@
...
+  · apply until_frequently_not_leadsTo
+    · intro k
+      have := (h_run.2 k).2
+      grind
+    · apply Frequently.mono h_inf
+      grind
+
+/-- If the intersection automaton sees the accepting condtions of both component automata
+infinitely many times, then its own accepting condition also happens infinitely many times. -/
+lemma inter_lemma2 {xs : ωSequence Symbol} {ss : ωSequence ((Π i, State i) × Bool)}
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NABuchiInter.lean]: Same issues here as the first lemma.

File: Cslib/Computability/Automata/NABuchiInter.lean [hunk 18]
```diff
@@ -0,0 +1,146 @@
...
+    rw [h1, h2]
+    apply until_frequently_leadsTo_and (h2 := h_inf_t)
+    intro k
+    have := (h_run.2 k).2
+    grind
+
+/-- The language accepted by the intersection automaton is the intersection of
+the languages accepted by the two component automata. -/
+@[simp, scoped grind =]
+theorem inter_language_eq :
```
Comment (chenson2018) [inline Cslib/Computability/Automata/NABuchiInter.lean:95]: Maybe we can figure out a helper `grind` lemma that works with `Frequently.mono`? I'll hold off looking at this proof closely until the changes I mention above.

File: Cslib/Computability/Automata/NAHist.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NAHist.lean:39]: I don't know what `grind` lemma to add here.  I tried:
`
@[scoped grind ·]
theorem hist_run_tr {xs : ωSequence Symbol} {ss : ωSequence (State × Hist)}
    (h_run : (na.addHist start' tr').Run xs ss) (n : ℕ) :
    na.Tr (ss n).fst (xs n) (ss (n + 1)).fst ∧ tr' (ss n) (xs n) (ss (n + 1)).fst = (ss (n + 1)).snd := by
`
with different `grind` annotations (`=>`, `<=`, and `.`) and also with dropping the 2nd conjunct in the consequent.  None worked.  In any case, I don't think it is worthwhile to sweat this `simp`, because the theorems `hist_run_proj` and `hist_run_exists` should form a complete API that any use of the `NA.addHist` construction will ever need.  It doesn't really matter if the proofs of these two theorems are a little ugly.

File: Cslib/Computability/Automata/NAHist.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NAHist.lean:54]: See my comment above.

File: Cslib/Computability/Automata/NAProd.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NAProd.lean]: Fixed.

File: Cslib/Computability/Automata/NAProd.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NAProd.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 5 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: I opened `NA.Run`.  But it can get rid of only the `constructor <;>`.  Note that the none of the arguments of the `simp only` actually has anything to do with `NA.Run`.  They are there to get rid of everything other than the `NA.Run` proof obligation, which can now be solved by `use` followed by `grind` with `NA.Run` opened.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 6 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Fixed.  Also fixed the same pattern in `IsRegular.iSup` above.

I didn't know this trick.  Why does the parentheses around `ncard_eq_succ` make a difference?  With them it doesn't work.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean (hunk 7 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean (hunk 8 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean (hunk 10 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean (hunk 11 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Temporal.lean]: Fixed.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean (hunk 12 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Temporal.lean:1]: No, I have not needed that definition even in the automata theory I have formalized so far in my personal project (https://github.com/ctchou/AutomataTheory).  This file `Temporal.lean` really should be part of a formalization of linear-time temporal logic.  If we get that in Cslib in the future, this file should be moved there.

File: Cslib/Foundations/Data/OmegaSequence/Temporal.lean (hunk 13 above)
Comment (ctchou) [reply Cslib/Foundations/Data/OmegaSequence/Temporal.lean:34]: I think we should await a proper development of temporal logic in Cslib.  Introducing a notation now will create a legacy that that development will need to deal with.  Currently I'm just developing enough temporal logic for me to do the proofs in `NABuchiInter.lean`.

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 15 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NABuchiInter.lean]: Fixed.

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 16 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NABuchiInter.lean]: First, I added `@[scoped grind =]` to the definition of `Step` in `Temporal.lean`, which greatly simplified the proofs in that file.  Then using the `have run_trans` you proposed, I can get rid of all the `intro k` and the subsequent `have` except one `intro k`.  But Lean does not allow me to add the following `grind` lemma` (the error is "invalid pattern"):

`
@[scoped grind =]
lemma foo {xs : ωSequence Symbol} {ss : ωSequence ((Π i, State i) × Bool)}
    (h_run : (interNA na acc).Run xs ss) (k : ℕ) :
    histTrans acc (ss k) (xs k) (ss (k + 1)).fst = (ss (k + 1)).snd := by
  exact (h_run.2 k).2
`

The patterns `=>` and `<=` are allowed, but they do not reproduce the effects of the `have run_trans`.  So I'll keep the `have run_trans` in both lemmas' proofs (though it is not necessary to give the `have` lemma a name).

The lemma names are fixed.

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 17 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NABuchiInter.lean]: Fixed.  New name: `inter_freq_comp_acc_freq_acc`.

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 16 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NABuchiInter.lean]: Fixed.  New name: `inter_freq_acc_freq_acc`.

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 14 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NABuchiInter.lean]: Fixed.

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 18 above)
Comment (ctchou) [reply Cslib/Computability/Automata/NABuchiInter.lean:95]: If you take a look at:
https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Filter/Basic.html#Filter.Frequently.mono
you'll see that I'm basically using the proof context to determine the predicates `p` and `q` and then dispatching the implication (`hpq`) using `grind`.  There are quite a few different `p`s and `q`s in this file and I doubt there is a common pattern.  I've tried giving `Frequent.mono` to `grind` as an argument, but Lean says `Frequent.mono` is not a valid `grind` lemma.

**Comment by ctchou** [comment]
I'll do a PR after this one to add four subdirectories under `Automata`:

- Acceptors
- DA
- NA
- EpsilonNA

and spread the current files among the four.  I don't think adding more levels makes sense.

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 16 above)
Comment (chenson2018) [reply Cslib/Computability/Automata/NABuchiInter.lean]: I just meant lemmas that work similar to `Run.mk`. I have added these.

Comment (ctchou) [reply Cslib/Computability/Automata/NABuchiInter.lean]: Thanks!  Any reason you used `attribute` rather than attaching the annotations to the theorems themselves?

File: Cslib/Computability/Automata/NABuchiInter.lean (hunk 18 above)
Comment (chenson2018) [reply Cslib/Computability/Automata/NABuchiInter.lean:95]: After trying for a bit, I can't seem to do much better. I made one small change, otherwise this optimal currently.

**Review by chenson2018 — APPROVED** [review]
